US07612078B2
N-(1-(3,5-Difluorobenzyl)piperidin-4-yl)-6-chlorothieno[2,3-d]pyrimidin-4-amine
The title compound was prepared (0.80 g, 51%) from 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine dihydrochloride (1.38 g, 4.05 mmol) and 1-(bromomethyl)-3,5-difluorobenzene (0.84 g, 4.05 mmol) by following the general procedure described for Preparation 12. 1H NMR (400 MHz, CDCl3) δ 8.44 (s, 1H), 6.99 (s, 1H), 6.89 (d, 2H), 6.70 (t, 1H), 4.89 (d, 1H), 4.19 (m, 1H), 3.50 (s, 2H), 2.86 (d, 2H), 2.24 (t, 2H), 2.01 (d, 2H), 1.59 (m, 2H); MS (ESI) m/z: Calculated for C18H18ClF2N4S, 395.09; Observed: 395.0 (M++1).

reactant | 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine dihydrochloride | 4.05 mmol, 1.38 g | Cl.Cl.ClC1=CC2=C(N=CN=C2NC2CCNCC2)S1
reactant | 1-(bromomethyl)-3,5-difluorobenzene | 4.05 mmol, 0.84 g | BrCC1=CC(=CC(=C1)F)F | C7H5BrF2
product | N-(1-(3,5-Difluorobenzyl)piperidin-4-yl)-6-chlorothieno[2,3-d]pyrimidin-4-amine | FC=1C=C(CN2CCC(CC2)NC=2C3=C(N=CN2)SC(=C3)Cl)C=C(C1)F | C18H17ClF2N4S
